US08252806B2
(2-Chloro-quinazolin-4-yl)-propylamine (450 mg, 2.03 mmol) was dissolved in acetonitrile (7.5 mL) and 3,5-dimethylpyrazole (215 mg, 2.23 mmol) was added. The mixture was heated in a microwave oven at 170° C. for 20 minutes. Filtration gave [2-(3,5-dimethylpyrazol-1-yl)-quinazolin-4-yl]-propylamine, hydrochloride (290 mg, 51%) as a pale red crystalline compound. Mp. 208° C.

reactant | (2-Chloro-quinazolin-4-yl)-propylamine | 2.03 mmol, 450 mg | ClC1=NC2=CC=CC=C2C(=N1)NCCC | C11H12ClN3
reactant | 3,5-dimethylpyrazole | 2.23 mmol, 215 mg | CC1=NNC(=C1)C | C5H8N2
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
product | [2-(3,5-dimethylpyrazol-1-yl)-quinazolin-4-yl]-propylamine, hydrochloride | 290 mg, 51% | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NCCC | InChI=1S/C16H19N5.ClH/c1-4-9-17-15-13-7-5-6-8-14(13)18-16(19-15)21-12(3)10-11(2)20-21;/h5-8,10H,4,9H2,1-3H3,(H,17,18,19);1H
